US06774241B2
A 100 mL flask equipped with a magnetic stirrer and a rubber septum was charged with triphenyl phosphine (0.506 g, 0.0019 mol) and 1-(2-fluorobenzenesulfonyl)-4-hydroxy-1H-indole (0.330 g, 0.0012 mol), and purged with N2. The mixture was cooled to 0° C. and freshly distilled THF was added (45 mL). A solution of 2-hydroxyethyl methylcarbamic acid tert-butyl ester (0.317 g, 0.0018 mol) and diethylazodicarboxylate (0.337 g, 0.0019 mol) in 5 mL of THF was added dropwise at 0° C. to give a yellow solution. The reaction mixture was warmed to ambient temperature and stirred for 72 hours, concentrated in vacuo and the resulting crude oil was purified by flash chromatography using a 25:75 of hexanes/ethyl acetate mixture to give 2-[1-(2-fluorobenzenesulfonyl)-1H-indol-4-yloxy]ethyl methylcarbamic acid tert-butyl ester as a clear oil (0.483 mg; 89%). 1H NMR (300 MHz, CDCl3) δ: 1.44 (bs, 9 H), 3.01 (s, 3 H), 3.65 (bs, 2 H), 4.19 (bs, 2 H), 6.65 (d, 1 H, J=8.03), 6.76 (d, 1 H, J=3.77), 7.09 (t, 1 H, J=8.67). 7.17 (t, 1 H, J=8.11), 7.28 (t, 1 H, J=7.73), 7.44 (d, 1 H, J=8.29), 7.55 (m, 2 H), 803 (t, 1 H, J=7.44).

reactant | triphenyl phosphine | 0.0019 mol, 0.506 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-(2-fluorobenzenesulfonyl)-4-hydroxy-1H-indole | 0.0012 mol, 0.330 g | FC1=C(C=CC=C1)S(=O)(=O)N1C=CC2=C(C=CC=C12)O | C14H10FNO3S
reactant | 2-hydroxyethyl methylcarbamic acid tert-butyl ester | 0.0018 mol, 0.317 g | C(C)(C)(C)OC(N(C)CCO)=O | C8H17NO3
reactant | diethylazodicarboxylate | 0.0019 mol, 0.337 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-[1-(2-fluorobenzenesulfonyl)-1H-indol-4-yloxy]ethyl methylcarbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)CCOC1=C2C=CN(C2=CC=C1)S(=O)(=O)C1=C(C=CC=C1)F)=O | C22H25FN2O5S
